US08633175B2
Step 3: 1,1-dimethylethyl 6-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydro-2(1H)-isoquinolinecarboxylate
To a solution of 1,1-dimethylethyl 6-hydroxy-3,4-dihydro-2(1H)-isoquinolinecarboxylate (0.146 g; 0.586 mmol) and Et3N (0.17 mL; 1.2 mmol) in CH2Cl2 (5 mL) at 0° C. was added Tf2O (0.11 mL; 0.67 mmol (dropwise over 2 min. The mixture was stirred overnight, gradually warming to room temperature, diluted with CH2Cl2, washed (water, brine), dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash chromatography (EtOAc/hexanes), affording the title compound as a colorless gum which slowly solidified. 1H NMR (400 MHz, CDCl3) δ 1.49 (s, 9H), 2.87 (t, J=5.7 Hz, 2H), 3.66 (br. t, J=5.5 Hz, 2H), 4.59 (s, 2H), 7.04-7.12 (m, 2H), 7.18 (d, J=8.4 Hz, 1H).

reactant | 1,1-dimethylethyl 6-hydroxy-3,4-dihydro-2(1H)-isoquinolinecarboxylate | 0.586 mmol, 0.146 g | OC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C | C14H19NO3
reactant | Et3N | 1.2 mmol, 0.17 mL | CCN(CC)CC | C6H15N
reactant | Tf2O | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 1,1-dimethylethyl 6-{[(trifluoromethyl)sulfonyl]oxy}-3,4-dihydro-2(1H)-isoquinolinecarboxylate | FC(S(=O)(=O)OC=1C=C2CCN(CC2=CC1)C(=O)OC(C)(C)C)(F)F | C15H18F3NO5S
